US06689754B1
A suspension of 2-acetylaminopyridine-6-carboxylic acid (4.1 g) in 2.5 N NaOH (36.5 ml) was heated at 80° C. for 1.5 hours, under nitrogen atmosphere. The resulting solution was cooled and acidified with cold 3N HCl. The precipitate obtained was filtered, washed successively with water and acetonitrile. The resulting white solid was dried under vacuum to afford 2-aminopyridine-6-carboxylic acid (2.4 g, 76% yield). 1H-NMR (DMSO-d6) δ 7.57 (t, 1H, J=8.1 Hz), 7.14 (d, 1H, J=7.2 Hz), 6.67 (1H, J=8.1 Hz), 6.51 (br, 2H); FAB MS m/z 139 (M+H).

reactant | 2-acetylaminopyridine-6-carboxylic acid | 4.1 g | C(C)(=O)NC1=NC(=CC=C1)C(=O)O | C8H8N2O3
reactant | HCl | 3N | Cl | ClH
solvent | NaOH | 2.5 N, 36.5 ml | [OH-].[Na+]
product | 2-aminopyridine-6-carboxylic acid | 2.4 g, 76% yield | NC1=NC(=CC=C1)C(=O)O | C6H6N2O2
